US04576629
3. 1-methyl-4-hydroxy-3-[5-(2-thienylmethyl-thio)-1,3,4-thiadiazol-2-yl]imidazolin-2-one
In a round bottom flask equipped with a magnetic stirrer, ice bath, addition funnel and nitrogen atmosphere were mixed 2-thiophene carbinol (6.0 g, 0.05 mol), dichloromethane (100 ml) and triethyl amine (6.6 g, 0.065 mol). The reaction was cooled to 0° C. and thionyl chloride (7.14 g, 0.06 mol) diluted with dichloromethane (10 ml) was added dropwise at a rate such that the temperature remained below 10° C. The reaction was then allowed to warm to room temperature, was mixed in a large beaker with water (120 ml) and was neutralized by the addition of solid sodium bicarbonate to pH=7. The layers were separated; the organic layer was dried over MgSO4 and was immediately filtered into an addition funnel fitted to a round bottom flask charged with dichloromethane (100 ml), 1-methyl-4-hydroxy-3-[5-mercapto-1,3,4-thiadiazol-2-yl]urea (12.8 g, 0.055 mol) and triethylamine (6.6 g, 0.065 mol). The solution was added relatively quickly at room temperature and after 1 hour, water (150 ml) was added to the reaction; the layers were separated, and the organic layer was washed again with water (1×250 ml) and was dried over MgSO4. The solvents were stripped on a rotary evaporator to leave a solid, 13.2 g, 80.4% yield. This was recrystallized by the cloud point method using ethylacetate and hexane to give pure product, mp 129°-132° C. IR: (KBr) 1700, 1500, 1430, 1400, 1390, 1360, 1340, 1300, 1280, 1210, 1100, 1010, 900, 700.

reactant | 2-thiophene carbinol | 0.05 mol, 6.0 g | C1=CSC(=C1)CO | C5H6OS
reactant | triethyl amine | 0.065 mol, 6.6 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.06 mol, 7.14 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1-methyl-4-hydroxy-3-[5-mercapto-1,3,4-thiadiazol-2-yl]urea | 0.055 mol, 12.8 g | CNC(=O)NC=1SC(N(N1)O)S | C4H8N4O2S2
reactant | triethylamine | 0.065 mol, 6.6 g | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 150 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | 1-methyl-4-hydroxy-3-[5-(2-thienylmethyl-thio)-1,3,4-thiadiazol-2-yl]imidazolin-2-one | 80.4% yield | CN1C(N(C(C1)O)C=1SC(=NN1)SCC=1SC=CC1)=O | C11H12N4O2S3
